US09381191B2
Step 1: Preparation of methyl 2-((3-iodoimidazo[1,2-a]pyridin-2-yl)methoxy)benzoate
4 g (13.68 mmol) of 2-(chloromethyl)-3-iodoimidazo[1,2-a]pyridine were dissolved in dimethylformamide with magnetic stirring and then 2.71 ml (20.51 mmol) of methyl 2-hydroxybenzoate and 6.68 g (20.51 mmol) of cesium carbonate were added. The mixture was stirred at 60° C. for 2 h before being poured into 200 ml of water. The aqueous phase was extracted with 2×100 ml of ethyl acetate. The combined organic phases were washed with 100 ml of a saturated NaHCO3 aqueous solution, 100 ml of a saturated NaCl aqueous solution, dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. The crude residue was triturated in 50 ml of diisopropyl ether, the obtained solid was isolated by filtration. 2.55 g of expected product were isolated. On the other hand, an aqueous phase suspension was isolated by filtration and washed with 2×30 ml of water. The analyses confirmed that this was also the expected product. Both batches were therefore collected and 5.58 g (yield=76%) of methyl 2-((3-iodoimidazo[1,2-a]pyridin-2-yl) methoxy)benzoate were obtained as a white powder. LC-MS: m/z=409 (MH+); UV purity at 254 nm=98%. 1H NMR (300 MHz, DMSO) δ 8.33 (d, J=6.9 Hz, 1H), 7.69-7.44 (m, 3H), 7.45-7.28 (m, 2H), 7.16-6.93 (m, 2H), 5.23 (s, 2H), 3.73 (s, 3H).

reactant | 2-(chloromethyl)-3-iodoimidazo[1,2-a]pyridine | 13.68 mmol, 4 g | ClCC=1N=C2N(C=CC=C2)C1I | C8H6ClIN2
reactant | methyl 2-hydroxybenzoate | 20.51 mmol, 2.71 ml | OC1=C(C(=O)OC)C=CC=C1 | C8H8O3
reactant | cesium carbonate | 20.51 mmol, 6.68 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 2-((3-iodoimidazo[1,2-a]pyridin-2-yl)methoxy)benzoate | 2.55 g | IC1=C(N=C2N1C=CC=C2)COC2=C(C(=O)OC)C=CC=C2 | C16H13IN2O3
